US06887874B2
DEAD (1.46 g, 8.38 mmol) was added to a suspension of 4-chloro-7-hydroxy-6-methoxycinnoline (1.47 g, 6.98 mmol), (prepared as described for the starting material in Example 1), 1-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine (1.65 g, 7.68 mmol), (prepared as described for the starting material in Example 6), and triphenylphosphine (2.74 g) in methylene chloride (40 ml). The mixture was stirred for 1 hour at ambient temperature, then poured onto silica and eluted with a gradient of ethyl acetate in methylene chloride (30/70 to 50/50). The fractions containing the expected product were combined and evaporated to give 7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-chloro-6-methoxycinnoline (561 mg, 58%).

reactant | DEAD | 8.38 mmol, 1.46 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-chloro-7-hydroxy-6-methoxycinnoline | 6.98 mmol, 1.47 g | ClC1=CN=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 1-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine | 7.68 mmol, 1.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-chloro-6-methoxycinnoline | 561 mg, 58% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CN=NC2=C1)Cl)OC | C20H26ClN3O4
